US06541470B1
5-Ethyl-8-isopropyl-11-hydroxy-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one (Compound C45)
2M solution of phenyl magnesium bromide in THF (1.07 mL, 1.87 mmol) was dissolved in anhydrous methylene chloride. To this solution was added dropwise a solution of 5-ethyl-8-isopropyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10,11-dione (500 mg, 1.58 mmol) in anhydrous methylene chloride with ice cooling and stirring followed by stirring at room temperature overnight. The reaction mixture was treated with 10% hydrochloric acid. The organic layer was separated, washed sequentially with diluted hydrochloric acid and saturated sodium chloride solution and dried with sodium sulfate followed by evaporation to remove methylene chloride. The title compound was isolated by subjecting the residue to silica gel-chromatography (chloroform) and crystallization from diethyl ether. 1H-NMR(CDCl3)δ 1.30(6H,d,CH(CH3)2), 1,79(3H,t,NCH2CH3), 3.05(1H,septet,CH), 4.81(2H,q,NCH2), 5.18(1H,s,H-11), 7.16-7.64(10H,m,Ar-H), 7.96(1H,d,H-6), 8.37(1H,d,H-9)

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | THF | 1.87 mmol, 1.07 mL | C1CCOC1 | C4H8O
reactant | 5-ethyl-8-isopropyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10,11-dione | 1.58 mmol, 500 mg | C(C)N1C2=C(C(C=3C=C(C=CC13)C(C)C)=O)C(C1=CC=CC=C12)=O | C21H19NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Ethyl-8-isopropyl-11-hydroxy-11-phenyl-5,10-dihydro-11H-indeno[1,2-b]quinolin-10-one | C(C)N1C2=C(C(C=3C=C(C=CC13)C(C)C)=O)C(C1=CC=CC=C12)(C1=CC=CC=C1)O | C27H25NO2
